Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___
 
Chief Complaint:
Presyncope 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of a-fib, HTN, presents with light headedness
and bradycardia.

He was at ___ waiting for optometry appointment for 2.5 hours
and unwell, reported light headedness. The patient claims that 
his symptoms happened immediately after standing up. First Aid 
response was
called and he had bradycardia to ___, hypertensive to 150s
systolic. FSBS ___. Denies any syncope. He was referred to ED 
for
evaluation. Lightheadedness resolved during the ambulance ride.
Notably, he started taking furosemide 40mg day prior (unclear
indication).
 

In the ED initial vitals were: 
- 98.0 52 (49-55) 166/98 16 95% RA FSBS 114  
- exam notable for bradycardia, clear lungs, and 1+ ___ edema
- labs notable for BNP 1485, Trop T < 0.01, BMP wnl
- CXR with no acute process

EKG:  a-fib, 43VBPM. TWI in lateral leads. 
 
On the floor he reports feeling well aside form chronic neck 
pain
which is more severe than usual. 
 
REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope.
 
Otherwise, full 10 point ROS is negative.
 

 
Past Medical History:
HTN
Afib
Cirrhosis ? (HCV treated in ___ 
HFpEF 
 
Social History:
___
Family History:
Father with MI at age ___.
Mother with alcoholism.
 

 
Physical Exam:
On admission:
VITALS: 97.9 187/119 60 22 95 ra  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: PERRL, EOMI, MMM
NECK: Supple, JVP not elevated  
CARDIAC: irreg irreg, S1, S2, no MRG
LUNGS: bibasilar rales  
ABDOMEN: obese, s, nt, nd
EXTREMITIES: No c/c/e. wwp. 2+ radial pulses. Trace lower shin
edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: full strength in all extremities

At discharge: 
24 HR Data (last updated ___ @ 1130)
    Temp: 98.3 (Tm 98.3), BP: 147/89 (147-187/84-119), HR: 67
(60-75), RR: 20 (___), O2 sat: 93% (91-97), O2 delivery: RA,
Wt: 207.45 lb/94.1 kg (207.45-212.0)  

Same findings on physical exam 

 
Pertinent Results:
___ 06:10AM BLOOD Glucose-91 UreaN-19 Creat-1.2 Na-147 
K-4.3 Cl-108 HCO3-23 AnGap-16
___ 03:18PM BLOOD proBNP-1485*
___ 06:10AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.2
___ 03:18PM BLOOD TSH-1.3
 
Brief Hospital Course:
Patient remained in the hospital less than 24 hours for 
monitoring. 
He denied any chest pain, light headedness, palpitations. 

Regarding his presyncope episode, it is most consistent with 
orthostatic hypotension or a vasovagal event in setting of 
prolonged sitting, possibly exacerbated by hypovolemic state 
from starting Lasix day prior, and unable to ___
response due to beta blocker. Symptoms and bradycardia now 
resolved.

The patient has done a TTE in ___ in the STEWARD system: 
EF 65%, some WMAs, no valvulopathies. 
A TEE was done in ___ which showed EF 65%, no
valvulopathies, no LVH and no thrombus in the ___. 

- Patient advised to stay hydrated (1.5 - 2 L of water daily). 
He will follow up with the PCP and ___ 
- Metoprolol dose was reduced from 50 mg daily to 25 mg. 

Regarding his uncontrolled hypertension. The patient claims that 
his sBP is 180 mmHg at home in AM and 150s in the afternoon. He 
is compliant with his lisinopril. He was advised to start 
amlodipine by his cardiologist but it seems the patient did not 
take it. Since it would be better to have 1 medication to ensure 
better medication compliance, we will increase his Lisinopril to 
80 mg 

Regarding his Atrial fibrillation, the patient is not on 
anticoagulation since Eliquis was making him nauseous. 
CHA2DS2-VASc = 2- 3 (HTN, age ___) + possible CAD 
Currently rate controlled, his Metoprolol was decreased to 25 mg 
since he had that episode of syncope and some pauses overnight. 
He was advised that he should be on it and he prefers to discuss 
that with Dr. ___. 

Transitional issues:
- Metoprolol Succinate was decreased to 25 mg daily since he was 
not able to mount a tachycardic response during the syncope. 
Moreover, he had 2.6 seconds pauses ( not a conversion pause) 
during his sleep. This should be looked at in outpatient.
- Restart anticoagulation for the patient's Afib.
- Blood pressure is uncontrolled at home, we increased his 
lisinopril to 80 mg daily 
- He will need a BMP in 2 to 3 weeks 
- Regarding his polycythemia, a work-up should be done. This 
would include assessing for primary causes (polycythemia ___ 
with a JAK 2 mutation), secondary (such as HCC since he is known 
to have cirrhosis, OSA or other).
- 1.2cm left lung nodule on CXR ==> Will be readdressed by the 
primary care doctor in the outpatient setting (CT chest would be 
a reasonable option or a comparison to a previous X ray )
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Furosemide 20 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Cyclobenzaprine 5 mg PO TID:PRN back spasm 

 
Discharge Medications:
1.  Lisinopril 80 mg PO DAILY 
RX *lisinopril 40 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate [Toprol XL] 25 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Cyclobenzaprine 5 mg PO TID:PRN back spasm  
4.  Furosemide 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic hypotension vs. Vasovagal syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you. 
You were admitted to ___ after feeling light headed which was 
mainly after standing up. Moreover, you were sweating and felt 
nauseous. This is in favor of orthostatic hypotension or 
vasovagal syncope, both of which are benign. One of the main 
causes of this is dehydration, therefore we would recommend that 
you stay hydrated and drink around 2 L of water daily. 

You should decrease the dose of Metoprolol Succinate to 25 mg 
daily instead of 50 mg daily. 
Continue taking the Lasix as usual but in case you feel this 
light headedness again, please call your primary care doctor or 
your cardiologist and hold the dose of that day. 

 
Followup Instructions:
___